US07727992B2
2-Amino-5-bromo-3-nitro-benzoic acid methyl ester:
To a solution of 2.23 g (10.4 mmol) of 2-amino-3-nitro-benzoic acid methyl ester in 12 mL of acetic acid was added dropwise over 5 minutes a solution of 0.53 mL (10.4 mmol, 1 eq) of bromine in 2 mL of acetic acid. The mixture was stirred at room temperature for 30 minutes and poured into 100 grams of ice. The precipitated yellow solid was collected by suction filtration and dried to afford 2.50 g (82%) of the title compound as a yellow solid. 1H NMR (CDCl3) δ 3.95 (s, 3H), 8.35 (br s, 2H), 8.6 (d, 1H).

reactant | 2-amino-3-nitro-benzoic acid methyl ester | 10.4 mmol, 2.23 g | COC(C1=C(C(=CC=C1)[N+](=O)[O-])N)=O | C8H8N2O4
reactant | bromine | 10.4 mmol, 0.53 mL, 1 eq | BrBr | Br2
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-Amino-5-bromo-3-nitro-benzoic acid methyl ester | 2.50 g, 82% | COC(C1=C(C(=CC(=C1)Br)[N+](=O)[O-])N)=O | C8H7BrN2O4
